US07964605B2
Carbamic acid 4-{4-[4-(2-methoxy-phenyl)-piperazine-1-yl]-butoxy}-benzyl ester
A mixture of 4-hydroxybenzaldehyde (5 mmol), 1-bromo-4-chlorobutane (5 mmol), and potassium carbonate (15 mmol) was refluxed in 100 ml of acetone for 6 h. This solution was then concentrated on a rotary evaporator and diluted with ethyl acetate. This mixture was then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This was dissolved in methanol (50 ml) and was added with sodium borohydride (10 mmol) at 25° C., and stirred at 25° C. for 2 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, then washed with brine, and the resulting organic layer was dried and concentrated in vacuo. The crude product was dissolved in isopropanol (50 ml) and was added with 1-(2-methoxyphenyl)-piperazine (5 mmol), sodium carbonate (15 mmol), and potassium iodide (5 mmol) at 25° C., and the reaction mixture was refluxed for 12 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This product was dissolved in THF (50 ml) and was added with 1,1′-carbonyl diimidazole (12 mmol) at 0° C. The reaction mixture was stirred at room temperature for 4 h, followed by the addition of excess ammonium hydroxide (10 ml) at 0° C. After 5 h stirring at room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, dried, and concentrated in vacuo. The residue was purified by column chromatography.

reactant | 4-hydroxybenzaldehyde | 5 mmol | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-bromo-4-chlorobutane | 5 mmol | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 10 mmol | [BH4-].[Na+]
reactant | 1-(2-methoxyphenyl)-piperazine | 5 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium carbonate | 15 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 5 mmol | [I-].[K+]
reactant | 1,1′-carbonyl diimidazole | 12 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Carbamic acid 4-{4-[4-(2-methoxy-phenyl)-piperazine-1-yl]-butoxy}-benzyl ester | COC1=C(C=CC=C1)N1CCN(CC1)CCCCOC1=CC=C(COC(N)=O)C=C1 | C23H31N3O4
